US07989628B2
N5-(2-Methoxy-ethyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=312.3 (M+H+), was prepared in accordance with the general method of example 3 from 5-bromo-2-chloroquinoline, 5-methyl-2-furanmethanamine and 2-methoxy-ethylamine.

reactant | 5-bromo-2-chloroquinoline | BrC1=C2C=CC(=NC2=CC=C1)Cl | C9H5BrClN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 2-methoxy-ethylamine | COCCN | C3H9NO
product | N5-(2-Methoxy-ethyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | COCCNC=1C=2C=CC(=NC2C=CC1)NCC=1OC(=CC1)C | C18H21N3O2
